US04393217
As for Example 1, N-benzyl-2-cyanoacetamide, m.p. 122°-123° C., is heated with N,N-dimethylformamide dimethylacetal to give N-benzyl-2-cyano-3-dimethylaminoacrylamide as colorless needles, m.p. 160.5°-161° C.

reactant | N-benzyl-2-cyanoacetamide | C(C1=CC=CC=C1)NC(CC#N)=O | C10H10N2O
reactant | N,N-dimethylformamide dimethylacetal | COC(N(C)C)OC | C5H13NO2
product | N-benzyl-2-cyano-3-dimethylaminoacrylamide | C(C1=CC=CC=C1)NC(C(=CN(C)C)C#N)=O | C13H15N3O
